US08304557B2
methyl 3-[(5-nitropyridin-2-yl)oxy]benzoate
A mixture of methyl 3-hydroxybenzoate (8.14 g, 53.5 g), 2-chloro-5-nitropyridine (8.08 g, 51.0 mmol), potassium carbonate (11.1 g, 80.3 mmol) and N,N-dimethylformamide (100 mL) was stirred at 60° C. for 3 hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was collected by filtration and washed with ethyl acetate-hexane to give the title compound (14.4 g, 98%) as a white solid.

reactant | methyl 3-hydroxybenzoate | 8.14 g | OC=1C=C(C(=O)OC)C=CC1 | C8H8O3
reactant | 2-chloro-5-nitropyridine | 51.0 mmol, 8.08 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | potassium carbonate | 80.3 mmol, 11.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | methyl 3-[(5-nitropyridin-2-yl)oxy]benzoate | 14.4 g, 98% | [N+](=O)([O-])C=1C=CC(=NC1)OC=1C=C(C(=O)OC)C=CC1 | C13H10N2O5
